US05256793
A fifty gallon reactor was charged with 61.1 pounds of tert-butanol/water (88/12) which was stirred and cooled to 5° C. To this was added 22.0 pounds (0.203 lb-mole) of phenylhydrazine. While maintaining the temperature of the reaction mixture at 0 to 5° C., a solution of 9.3 pounds (0.211 lb-mole) of acetaldehyde in 20 pounds of tert-butanol/water (88/12) was added during a 90 minute period. After this time a mixture of 15.6 pounds (0.240 lb-mole) of 85% pure sodium cyanate in 44.5 pounds of water was added during a five-minute period. The addition caused the temperature of the reaction mixture to rise about 5° to 10° C. The reaction mixture was again cooled to 5° C. as it was stirred during a 30 minute period. While maintaining the reaction mixture at about 10° C., 14.8 pounds (0.247 lb-mole) of acetic acid was added during about a 30-45 minute period. Upon completion of the addition, the reaction mixture was stirred for three hours at about 10° C. until the reaction was complete. The reaction endpoint and the concentration of the phenyltriazolidinone intermediate was determined by gas chromatography. Upon completion of the reaction, a solution of 12.6 pounds of sodium chloride in 35.8 pounds of water was stirred into the reaction mixture. The aqueous phase was separated when the temperature of the reaction mixture was about 15° C. While maintaining the temperature of the reaction mixture at 20° C., 120.5 pounds of aqueous 11.1% (wt/wt) sodium hypochlorite (0.180 lb-mole) was added to the reaction mixture during a three-hour period. Upon completion of addition, the reaction mixture, was stirred for one hour at 20° C. After this time, 67.8 pounds of water was added to the reaction mixture and 73.4 pounds of tert-butanol/water (88/12) was removed by distillation at an overhead temperature of 80° C. The residue was cooled to 0° C., and a solid was collected by filtration. The solid was dried at 80° C./ 5mm Hg for 24 hours, yielding 32.2 pounds (91% yield) of 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1H)-one.

reactant | phenylhydrazine | 22.0 pounds | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetaldehyde | 9.3 pounds | C(C)=O | C2H4O
reactant | sodium cyanate | 15.6 pounds | [O-]C#N.[Na+]
reactant | phenyltriazolidinone | C1(=CC=CC=C1)N1NNC(C1)=O | C8H9N3O
reactant | sodium chloride | 12.6 pounds | [Cl-].[Na+]
solvent | tert-butanol water | 20 pounds | C(C)(C)(C)O.O
solvent | water | 44.5 pounds | O | H2O
solvent | water | 35.8 pounds | O | H2O
solvent | tert-butanol water | 61.1 pounds | C(C)(C)(C)O.O
solvent | acetic acid | 14.8 pounds | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-3-methyl-1-phenyl-1,2,4-triazol-5(1H)-one | 32.2 pounds, 91% yield | CC1=NN(C(N1)=O)C1=CC=CC=C1 | C9H9N3O
